Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Left-sided weakness and urinary incontinence
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo M w/ h/o PE (tx 6months of coumadin), ETOH abuse, fall w/ 
lumbar stenosis, L5-S1 disc bulge, CM w/ Vfib arrest s/p AICD, 
and recent admission ___ for pancreatitis in the setting 
ETOH use p/w left arm/leg weakness and back pain.
.
Patient d/c'd on ___ from ___ after admission for 
pancreatitis in the setting of ETOH abuse and cdiff.  He was 
followed up by his PCP for continued abdominal pain, though 
improved from prior.  PCP switched po dilaudid to ___, which 
he was taking in unclear quantity.  While home, he was w/ his 
baseline back pain that is described as nagging, sharp ___s well as bilateral paraspinal, w/ occasional 
(~1/day) radiation down the left leg and right buttock that 
lasts ___ minutes and has some residual numbness and tingling. 
He also reports parasthesia on his right calf.  At baseline, he 
self-ambulates w/ cane.  Of note, he was scheduled for 
outpatient laminectomy, but this was cancelled given his episode 
of pancreatitis.  

On the day of admission, ___, he awoke with left leg and arm 
weakness and urinary incontinence. He reported he was unable to 
use either extremity for ~2.5 hours and after that his left 
extremities are still weak and shakey. He called EMS and was 
taken to ___, where his initial vitals were: T 98.8, 
hr 65, rr 20, bp 115/68 o2 100%.  They were concerned initially 
for central process w/ ? LUE and LLE weakness.  CT head was 
unremarkable.  Ortho c/s and recommended CT-l spine, but no 
report in chart.  The remainder of his labs were: h/h 11.3/35.3, 
inr 1.1, lfts wnl, lipase 34, cr 0.9, tox screen: +tylenol, 
opiates, cannaboids, neg etoh.  ECG notable for old inf infarct 
(q ii, iii, avf), no st changes.
.
He was transferred to ___. While here he was felt to have poor 
rectal tone overnight, and bladder scan ~100.  Ortho spine c/s, 
did not feel urgent need for surgery.
.
Currently, patient c/o back pain and left leg and arm weakness.  
He reports sensing bowel activity and an unexpected, unstoppable 
BM. Also, he continues to have some abdominal pain, though 
better than before and reasonably controlled on oxycodone 5mg 
q4hrs. No further urinary inc, no fevers/chills.
.
ROS:  
+Per HPI.  
-fever, chills, night sweats, headache, vision changes, changes 
in speech,cough, shortness of breath, chest pain, abdominal 
pain, nausea, vomiting, diarrhea, constipation, BRBPR, melena.
 
Past Medical History:
- ETOH abuse  
- Alcoholic Pancreatitis x3 per patient  
- Cdiff tx w/ vanc from prior admission
- PE presented as hemoptysis after fall in ___ s/p 6 months of 
warfarin ___  
- Cardiomyopathy w/ VFib arrest s/p Placement of cardioverter  
defibrillator ___  
- Hypertension  (has not been on lisinopril in years)
- Hyperlipidemia  
- Coronary artery disease - had angioplasty in ___ w/o stenting
- GERD  
- Splenic infarct  
- Depression/anxiety
 
Social History:
___
Family History:
brother, sister - lung cancer. mother - heart disease in ___.
 
Physical Exam:
On admission:
VS -  98.3  112/66  100s-110s/60s-70s  ___  ___  98-100% RA 
GENERAL - well-appearing male in NAD 
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no JVD  
LUNGS - CTAB
HEART - regular rate, no MRG, nl S1-S2  
ABDOMEN - +BS, soft, mild tenderness to palp on mid epigastric 
and ruq, no no rebound/guarding 
BACK - Mild tenderness along L5-S1 as well as paraspinal area 
and L CVA. 
RECTAL - Reasonable tone.
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
NEURO - Awake, A&Ox3, CNs II-XII intact. Neg pronator drift. 
Reflexes difficult to elicit symmetrically in upper and lower 
extremities (b/l: 2+ patellar bilaterally, 3+ brachioradialis, 
but absent biceps and patellar).
 MSK - Orbiting around LUE. Strength ___ in RLE and RUE, 4+/5 
LUE and ___ in LLE (left hip, knee, and foot ext/flex). 
 Sensation: Sensation of light touch at left back of thigh and 
buttock intact, but reduced compared to right. Also sensation to 
light touch reduced on right anterior lateral leg reduced 
compared to left. 
PSYCH: Mood reported as 'good' with reasonable, appropriate 
affect.

On discharge:
VS - 99.5 98.2  103/62 100s-130s/60s-80s  56 50-60s  18  95-99% 
RA
I/Os - 990 / 0 | 150+ / 0    AM: 160 / 0 | 0 / 0
GENERAL - well-appearing male in NAD 
HEENT - NC/AT, PERRL, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no JVD  
LUNGS - CTAB anteriorly
HEART - regular rate, no MRG, nl S1-S2  
ABDOMEN - +BS, soft, minimal tenderness to palp on mid 
epigastric and luq, no no rebound/guarding.
BACK - Mild L-spine tenderness
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
NEURO - Awake, A&Ox3, CNs II-XII intact. 
MSK - Strength ___ in extremities (upper, lower, proximal, 
distal), except 4+/5 left hip flexors and knee extensors.
PSYCH: Mood reported as okay with reasonable, appropriate 
affect.
 
Pertinent Results:
___ 06:00AM BLOOD WBC-4.2 RBC-3.13* Hgb-9.9* Hct-30.1* 
MCV-96 MCH-31.8 MCHC-33.0 RDW-14.0 Plt ___
___ 06:00AM BLOOD WBC-3.8* RBC-3.31* Hgb-10.2* Hct-30.8* 
MCV-93 MCH-30.7 MCHC-33.0 RDW-13.8 Plt ___
___ 09:03AM BLOOD WBC-3.6* RBC-3.20* Hgb-10.1* Hct-30.0* 
MCV-94 MCH-31.5 MCHC-33.6 RDW-13.8 Plt ___
___ 06:00AM BLOOD Glucose-68* UreaN-8 Creat-0.8 Na-140 
K-4.4 Cl-106 HCO3-23 AnGap-15
___ 06:00AM BLOOD Glucose-86 UreaN-7 Creat-0.9 Na-140 K-4.6 
Cl-102 HCO3-28 AnGap-15
___ 06:00AM BLOOD Lipase-37
___ 06:00AM BLOOD Mg-1.7
___ 06:00AM BLOOD Calcium-9.9 Phos-3.1# Mg-1.7

CT/CTA Head:
IMPRESSION:
1.  No acute intracranial process.
2.  No evidence of stenosis, aneurysm, dissection or occlusion.
3.  Mild atherosclerotic disease in the cavernous portion of the 
bilateral
internal carotid arteries.
4.  Tiny infundibulum at the origin of the left posterior 
communicating
artery.

CT C-spine:
IMPRESSION:
1.  No fracture or acute alignment abnormality.
2.  Multilevel degenerative changes, as described above, most 
severe at C4-5 and C5-6, with mild flattening of the ventral 
thecal sac and mild-to-moderate neural foraminal narrowing at 
these levels.

CTA Neck:
IMPRESSION:  Normal CTA of the neck.

ECG ___:
Sinus rhythm. Old inferior myocardial infarction. Compared to 
the previous
tracing of ___ the rate is slower.
 
Brief Hospital Course:
___ yo M w/ h/o PE (tx 6months of coumadin), ETOH abuse, fall w/ 
lumbar stenosis, L5-S1 disc bulge, and recent admission ___ 
for pancreatitis in the setting ETOH use p/w transient urinary 
incontinence, left arm and leg weakness, and chronic back pain.
.
# Left-sided weakness/urinary incontinence: Patient described 
being unable to move his left leg at all and having a very weak 
left arm. He also reported one episode of urinary incontinence 
(upon awaking) and asymmetric saddle sensation (see below). He 
denied any constitutional symptoms. He was evaluated by Ortho 
Spine and by Neurology. He was given a soft cervical collar for 
sleep. There was concern for stroke or spinal cord compression. 
He was started on dexamethasone. He was unable to have an MRI 
because of his AICD. He had a CT/CTA of his head, which revealed 
no evidence of an acute process. He also had a CT/CTA of his 
neck, which revealed some mild-to-moderate neural foraminal 
narrowing, but no fracture, abscess, or other acute process. His 
strength appeared to return rapidly such that at the time of 
admission he had 4+/5 strength in his left arm and ___ strength 
in left leg and by HD2 he demonstrated ___ arm strength and 
___ leg strength. His neurologic exam otherwise remained 
stable. His dexamethasone was stopped. He remained continent 
throughout the admission and his post void residuals were all 
normal. He had previously had a CT myelogram that was notable 
for an asymmetric disc bulge at L5-S1 possibly indenting 
traversing right S1 nerve root and spinal stenosis. Given the 
quick resolution of his symptoms, our concern for cord 
compression was low, so a CT myelogram was not performed. We 
think the most likely etiology of his short-lived weakness and 
incontinence was a transient ischemic attack. We stopped his 
tricor and started simvastatin; we continued his aspirin 81mg. 
He was seen by ___ who recommended outpatient ___.
.
# Asymmetric Saddle Sensation: Patient reported ~25% decreased 
sensation in his left ___ area. He had reasonable rectal 
tone and remained continent throughout the admission. Because 
his sensation was intact, cord compression was ruled unlikely. 
The decreased sensation may be due to to a small not-detected 
ischemic event or may be unrelated.
. 
# Abdominal pain: The patient report epigastric/LUQ discomfort 
and tenderness. He was recently admitted at ___ for 
pancreatitis and he believes this discomfort is consistent with 
his pancreatitis pain that is still resolving, but much 
improved. His lipase was normal. He also was recently infected 
with C. diff and completed treatment. He remained afebrile, had 
normal WBC count, and had no diarrhea. He actually was a little 
constipated at one point during his admission and had lower 
abdominal discomfort resolved following defectation. In terms of 
other etiologies, his LFTs were also normal. He was originally 
NPO and then his diet was advanced slowly without difficulty. 
His pain was well controlled on oxycodone ___ mg q6h.
.
# Back pain: The patient has a history of low back pain and 
tenderness most consistent with a muscular source s/p fall, and 
pain radiating down his left leg, likely explained by a 
documented L5-S1 disk bulge. Ortho Spine is planning a 
laminectomy. Throughout this admission his back pain was stable 
and he experienced none of the radiating pain. He should call 
Ortho Spine for follow-up and to schedule a lumbar-sacral 
laminectomy. 
.
# ETOH abuse: Patient has a significant alcohol history, which 
is likely responsible for his pancreatitis. He says his last 
drink was prior to his previous hospital admission (> 3 weeks 
ago). He developed no signs or symptoms of alcohol withdrawal 
and was continued on thiamine, MVI, and folate.
.
# CAD: He has an EF 50-55% and has had a Vfib arrest now s/p 
AICD. Discussed with PCP why ___ was stopped. He was 
continued on aspirin 81mg. He described a mild, short-lived 
chest discomfort without associated symptoms at one point during 
admission and his EKG showed no acute changes.
.
# Normocytic Anemia: His hematocrit remained stable. It is 
likely due to anemia of chronic disease versus multifactorial.
.
# Depression: The patient has a history of depression, but 
reports positive mood and had congruent affect throughout his 
admission. He was continued on his home citalopram and 
quetiapine.
.
# Hyperlipidemia: Patient has hyperlipidemia and his trialed on 
many medications. He came in on tricor. We discussed his regimen 
with his PCP and on discharge we decided to switch him to 
simvastatin for secondary stroke prevention.

TRANSITIONAL ISSUES:
1) We stopped his tricor and started low-dose simvastatin, which 
could be titrated up.
2) We provided him with a short course of oxycodone for pain 
management and discussed stopping ___ for now and then 
restarting when oxycodone is all done.
3) He should continue taking a baby aspirin for secondary 
prevention.
4) He was given a script for outpatient ___.
5) He should call Dr. ___ office to schedule 
follow-up and surgery.
6) He has a device check and appointment with Dr. ___ 
cardiologist
7) Patient should make an appointment with his PCP within one 
week.
 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from Patient.
1. Senna 1 TAB PO BID:PRN constipation 
2. Omeprazole 20 mg PO DAILY 
3. Citalopram 20 mg PO DAILY 
4. Tricor *NF* (fenofibrate nanocrystallized) 145 mg Oral daily 
5. Docusate Sodium 100 mg PO BID 
6. Thiamine 100 mg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 
8. FoLIC Acid 1 mg PO DAILY 
9. Quetiapine Fumarate 25 mg PO QAM 
10. Quetiapine Fumarate 50 mg PO QPM 
11. Miconazole Powder 2% 1 Appl TP BID:PRN itch 
12. Hydrocodone-Acetaminophen (5mg-500mg ___ TAB PO Q6H:PRN pain 

unknown dose 
13. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Citalopram 20 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. FoLIC Acid 1 mg PO DAILY 
5. Miconazole Powder 2% 1 Appl TP BID:PRN itch 
6. Multivitamins 1 TAB PO DAILY 
7. Omeprazole 20 mg PO DAILY 
8. Quetiapine Fumarate 25 mg PO QAM 
9. Quetiapine Fumarate 50 mg PO QPM 
10. Senna 1 TAB PO BID:PRN constipation 
11. Thiamine 100 mg PO DAILY 
12. OxycoDONE (Immediate Release)  ___ mg PO Q6H:PRN pain 
Duration: 1 Weeks 
Hold for sedation or RR<10. 
RX *oxycodone 5 mg 1 Capsule(s) by mouth every 6 hours Disp #*45 
Capsule Refills:*0
13. Simvastatin 10 mg PO DAILY 
RX *simvastatin 10 mg 1 Tablet(s) by mouth daily Disp #*60 
Tablet Refills:*0
14. Outpatient Physical Therapy
Lumbar stabilization, L sided strengthening program, and 
possible aquatic therapy

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient Ischemic Attack

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure participating in your care here at ___. You 
came into the hospital because of abrupt onset left arm and leg 
weakness and one-time urinary incontinence. Your incontinence 
resolved and your weakness improved considerably during your 
stay. We performed a CT scan of your head and neck, as well as a 
CT scan of the vesseles in your head and neck. These scans 
showed no evidence of disease that could explain your symptoms, 
including cord compression, stroke, or infection. We think the 
most likely possibility is that you had a transient ischemic 
attack (or TIA), which is a mini-stroke. To help prevent future 
TIAs, we have started you on simvastatin and restarted your 
aspirin.

Medication changes:
- STOP taking tricor (you should not take this while taking 
simvastatin)
- START taking simvastatin 10 mg by mouth daily to help prevent 
TIAs/stroke
- CONTINUE taking a baby aspirin
- STOP taking ___
- START taking oxycodone ___ mg by mouth every six hours as 
needed for pain

Physical therapy saw you while you were here and recommend 
outpatient physical therapy.  We have written a prescription for 
this.
 
Followup Instructions:
___